US08222416B2
To a solution of 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-butan-1-ol (9.4 g, 26 mmol) in dichloromethane (400 mL) was added Dess-Martin periodinane (16.6 g, 39 mmol) at 25° C. The reaction mixture was stirred at 25° C. for 1 h and then quenched with a saturated aqueous sodium bicarbonate solution (200 mL). The mixture was extracted with dichloromethane (100 mL), washed with a saturated aqueous sodium bicarbonate solution (3×100 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 25% ethyl acetate/hexanes) afforded 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-butan-1-one (8.3 g, 84%) as a light yellow solid: LC/MS m/e calcd for C18H17FN2O3S [M+H]+ 361.41, observed 360.8.

reactant | 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-butan-1-ol | 26 mmol, 9.4 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(CC(C)C)O | C18H19FN2O3S
reactant | Dess-Martin periodinane | 39 mmol, 16.6 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-butan-1-one | 8.3 g, 84% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(CC(C)C)=O | C18H17FN2O3S
